US04980287
(B) Synthesis of 4-amino-N-trifluoroacetyl-anthranilic acid
An amount of 5.24 g of 4-nitro-N-trifluoroacetyl-anthranilic acid was dissolved in 100 ml of ethyl alcohol, 2 g of a 10% palladium-carbon catalyst were added to the resultant solution, and the resultant mixture was stirred for 2.5 hours at room temperature in a hydrogen gas stream. The resultant reaction mixture was filtered through a Celite filter (trademark, made by Johns Manville Sales), and the catalyst on the Celite filter was washed with ethyl alcohol. The entire amount of the filtrate was collected, concentrated, and dry solidified under a reduced pressure, and the resultant crude product in an amount of 4.7 g was recrystallized from an ethyl alcohol-hexane or ethyl alcohol-water mixed solvent.

reactant | 4-nitro-N-trifluoroacetyl-anthranilic acid | 5.24 g | [N+](=O)([O-])C=1C=C(C(C(=O)O)=CC1)NC(C(F)(F)F)=O | C9H5F3N2O5
reactant | hydrogen | [H][H] | H2
solvent | ethyl alcohol | 100 ml | C(C)O | C2H6O
catalyst | palladium-carbon | [C].[Pd]
product | 4-amino-N-trifluoroacetyl-anthranilic acid | NC=1C=C(C(C(=O)O)=CC1)NC(C(F)(F)F)=O | C9H7F3N2O3
